US05667674
The triallyl formyloxypropyl silane intermediate was converted to the hydroxylpropyl product by charging 5.0 grams of the intermediate, together with 50 ml of methanol (commercially available from Burdick and Jackson of Muskeegon, Mich.) and 10 ml of deionized water, in a 250 ml flask with stir bar. 1.0 gram (10 millimoles) of potassium hydrogen carbonate (commercially available from Aldrich Chemical Co.) was added to the solution, which was then stirred at 50° C. for five hours. The solution was filtered and was concentrated in vacuo. The sample was then taken up in cyclohexane and was washed with saturated aqueous sodium chloride before drying over anhydrous sodium sulfate (commercially available from Aldrich Chemical Co.). The sample was then purified using flash chromatography on silica with 99/1 cyclohexane/acetone eluent initially, followed by 80/20 cyclohexane/acetone. The recovered fractions were concentrated in vacuo to yield triallyl 3-hydroxypropyl silane, as shown by capillary GC/FID analysis using a 30 meter DB-5 column. Spectroscopic analysis using mass spectrometry, FTIR and NMR was consistent with triallyl-3-hydroxypropyl silane.

reactant | triallyl formyloxypropyl silane | C(C=C)[Si](CCCOC=O)(CC=C)CC=C | C13H22O2Si
reactant | methanol | 50 ml | CO | CH4O
reactant | potassium hydrogen carbonate | 10 millimoles, 1.0 gram | C(O)([O-])=O.[K+]
solvent | water | 10 ml | O | H2O
product | triallyl 3-hydroxypropyl silane | C(C=C)[Si](CCCO)(CC=C)CC=C | C12H22OSi
